US05767268
(S)-4,5-Dihydroxy-pentanoic acid (benzyl 2-benzyloxy-carbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide was acetylated as described in Ex. 14.B. and gave (S)-4,5-diacetoxy-pentanoic acid (benzyl 3,4-di-O-acetyl-2-benzyloxy-carbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide, [α]+89.5° (c 0.2; dioxan), MS: m/z 687.2 ([M+H]+).

reactant | (S)-4,5-Dihydroxy-pentanoic acid (benzyl 2-benzyloxy-carbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide | C(C1=CC=CC=C1)[C@@]1([C@@](O)(O[C@@H]([C@H]([C@@H]1O)O)CNC(CC[C@@H](CO)O)=O)N=C=O)OCC1=CC=CC=C1 | C26H32N2O9
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (S)-4,5-diacetoxy-pentanoic acid (benzyl 3,4-di-O-acetyl-2-benzyloxy-carbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide | C(C1=CC=CC=C1)[C@@]1([C@@](O)(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)CNC(CC[C@@H](COC(C)=O)OC(C)=O)=O)N=C=O)OCC1=CC=CC=C1 | C34H40N2O13
